US04153619
A solution of 2-bromo-3-phenyl-4-benzofuranacetic acid (12.1 g., 0.0365 mole) and cyclohexene (3.3 g., 0.04 mole) in 100 ml. of chloroform is treated with 5 g. of dinitrogen tetroxide in 20 ml. of chloroform dropwise. The mixture is stirred for 16 hours at about 25° C. then at 50°-55° C. for about 20 minutes. The mixture is washed with water, and the organic layer is treated with an aqueous base. The aqueous layer is acidified, then extracted with dichloromethane. The organic layer is washed thrice with water, dried and evaporated. Two recrystallizations from benzene give light yellow solid 2-nitro-3-phenyl-4-benzofuranacetic acid, m.p. 187.5°-189.5° C.

reactant | 2-bromo-3-phenyl-4-benzofuranacetic acid | 0.0365 mole, 12.1 g | BrC1(C(C=C2C(=CC=C2)O1)C1=CC=CC=C1)CC(=O)O | C16H13BrO3
reactant | cyclohexene | 0.04 mole, 3.3 g | C1=CCCCC1 | C6H10
reactant | dinitrogen tetroxide | [N+](=O)([N+](=O)[O-])[O-] | N2O4
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-nitro-3-phenyl-4-benzofuranacetic acid | [N+](=O)([O-])C1(C(C=C2C(=CC=C2)O1)C1=CC=CC=C1)CC(=O)O | C16H13NO5
